US08629143B2
2-amino-7-bromo-4-(4-methoxyphenyl)phthalazin-1(2H)-one
A suspension of AlCl3 and 5-bromoisobenzofuran-1,3-dione in 1,2-dichloroethane was briefly heated to form a solution, and cooled to room temperature. Anisole was added dropwise and stirred overnight. The mixture was quenched with 1N HCl, extracted with dichloromethane, dried (Na2SO4), filtered, and triturated (Hexanes/Et2O) to give a ˜1:1 mixture of 4-bromo-2-(4-methoxybenzoyl)benzoic acid:5-bromo-2-(4-methoxybenzoyl)benzoic acid as a white solid. A solution of this material and hydrazine hydrate in EtOH was heated at 60° C. overnight, concentrated, diluted with EtOAc, washed with saturated aqueous NaHCO3 and brine, dried (Na2SO4), and chromatographed (15-50% (1:1 EtOAc:dichloromethane)/hexanes) to give a mixture of 6-bromo-4-(4-methoxyphenyl)phthalazin-1(2H)-one and 7-bromo-4-(4-methoxyphenyl)phthalazin-1(2H)-one as a white solid. A solution of this mixture in THF was treated with O-(diphenylphosphoryl)hydroxylamine using a method similar to that described in Example 1B, and the regioisomers separated upon purification by chromatography on SiO2 (7% EtOAc/dichloromethane) to give the title compound. 1H NMR (300 MHz, DMSO) δ 8.45 (d, J=2.1, 1H), 8.05 (dd, J=8.7, 2.2, 1H), 7.69 (d, J=8.7, 1H), 7.59-7.48 (m, 2H), 7.17-7.07 (m, 2H), 6.55 (d, J=6.1, 2H), 3.85 (s, 3H).

reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 5-bromoisobenzofuran-1,3-dione | BrC=1C=C2C(OC(C2=CC1)=O)=O | C8H3BrO3
reactant | Anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-bromo-2-(4-methoxybenzoyl)benzoic acid | BrC1=CC(=C(C(=O)O)C=C1)C(C1=CC=C(C=C1)OC)=O | C15H11BrO4
reactant | 5-bromo-2-(4-methoxybenzoyl)benzoic acid | BrC=1C=CC(=C(C(=O)O)C1)C(C1=CC=C(C=C1)OC)=O | C15H11BrO4
reactant | hydrazine hydrate | O.NN
reactant | 6-bromo-4-(4-methoxyphenyl)phthalazin-1(2H)-one | BrC=1C=C2C(=NNC(C2=CC1)=O)C1=CC=C(C=C1)OC | C15H11BrN2O2
reactant | 7-bromo-4-(4-methoxyphenyl)phthalazin-1(2H)-one | BrC1=CC=C2C(=NNC(C2=C1)=O)C1=CC=C(C=C1)OC | C15H11BrN2O2
reactant | O-(diphenylphosphoryl)hydroxylamine | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)ON | C12H12NO2P
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | EtOH | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | 2-amino-7-bromo-4-(4-methoxyphenyl)phthalazin-1(2H)-one | NN1C(C2=CC(=CC=C2C(=N1)C1=CC=C(C=C1)OC)Br)=O | C15H12BrN3O2
